US05814631
Synthesis of 3-(4-chlorobenzenesulfonyl)-6,7-dimethyl-2,4(1H,3H)-quinazolinedione (Compound 21)
365 mg (1.68 mmol) of 4-chlorobenzenesulfonylisocyanate and 230 mg (1.40 mmol) of 2-amino-4,5-dimethylbenzoic acid were treated in the same way as in Example 1 to obtain 80 mg of the above-identified compound (yield 15.7%). Properties: colorless crystal, Melting point: 221°-222° C., PMR (δppm, DMSO-d6): 2.23 (3H,s), 2.27 (3H,s), 6.89 (1H,s), 7.60 (1H,s), 7.75 (2H,d), 8.15 (2H,d), 11.40 (1H,br).

reactant | 4-chlorobenzenesulfonylisocyanate | 1.68 mmol, 365 mg | ClC1=CC=C(C=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
reactant | 2-amino-4,5-dimethylbenzoic acid | 1.40 mmol, 230 mg | NC1=C(C(=O)O)C=C(C(=C1)C)C | C9H11NO2
product | 3-(4-chlorobenzenesulfonyl)-6,7-dimethyl-2,4(1H,3H)-quinazolinedione | 80 mg, yield 15.7% | ClC1=CC=C(C=C1)S(=O)(=O)N1C(NC2=CC(=C(C=C2C1=O)C)C)=O | C16H13ClN2O4S
